US07579469B2
Synthesis of 1-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-3-methoxymethyl-1H-quinolin-4-one
To a suspension of 1-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-3-hydroxymethyl-1H-quinolin-4-one (51.5 mg) and silver(I) oxide (127 mg) in acetonitrile (3 mL) was added methyl iodide (68.5 p-L). After heating at 50° C. for 15 hours, the reaction mixture was filtered and concentrated in vacuo. The residue was purified by column chromatography with silica gel (eluted with 50%-70% ethyl acetate-hexanes) to give the title compound as a white solid (37.5 mg).

reactant | 1-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-3-hydroxymethyl-1H-quinolin-4-one | 51.5 mg | FC=1C=CC(=C(C1)C(CC(CN1C=C(C(C2=CC=CC=C12)=O)CO)(C(F)(F)F)O)(C)C)OC | C24H25F4NO4
reactant | methyl iodide | CI | CH3I
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
catalyst | silver(I) oxide | 127 mg | [Ag-]=O
product | 1-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-3-methoxymethyl-1H-quinolin-4-one | 37.5 mg | FC=1C=CC(=C(C1)C(CC(CN1C=C(C(C2=CC=CC=C12)=O)COC)(C(F)(F)F)O)(C)C)OC | C25H27F4NO4
